US07741245B2
This compound was synthesized by substantially following the procedure of the above-mentioned article by Isaka, Ejiri, and Nakamura. 69 grams of neopentyl glycol, 76 grams of 1,3-dichloroacetone, 50 ml of benzene, and 2.3 g of p-toluenesulfonic acid were refluxed through a Dean-Stark water separator for 8 hours whereon the reaction was diluted with hexanes and neutralized with aqueous sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo yielding 41.2 g of 2,2-bis-chloromethyl-5,5-dimethyl-1,3-dioxolane, a pale yellow liquid.

reactant | neopentyl glycol | 69 grams | OCC(C)(CO)C | C5H12O2
reactant | 1,3-dichloroacetone | 76 grams | ClCC(=O)CCl | C3H4Cl2O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | p-toluenesulfonic acid | 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2,2-bis-chloromethyl-5,5-dimethyl-1,3-dioxolane | 41.2 g | ClCC1(OC(CO1)(C)C)CCl | C7H12Cl2O2
